US08426541B2
In one non-limiting example of a synthesis method for N-(2-hydroxy-3,5-dichlorobenzoyl)-L-phenylalanine, synthesis begins with reaction of 3,5-dichlorosalicylic acid with acetic anhydride to obtain 2-acetoxy-3,5-dichlorobenzoic acid which in turn is converted into the acid chloride by the action of oxalyl chloride. The 2-acetoxy-3,5-dichlorobenzoic acid chloride is then reacted in situ with phenylalanine ethyl ester hydrochloride, in the presence of triethylamine, to yield ethyl ester of N-(2-acetoxy-3,5-dichlorobenzoyl)-L-phenylalanine. The last step of the synthesis method introduces novel and highly specific hydrolysis of both ester functions of N-(2-acetoxy-3,5-dichloro benzoyl)-L-phenylalanine ethyl ester to obtain the OTA template, N-(2-hydroxy-3,5-dichlorobenzoyl)-L-phenylalanine (I) with 98% yield. This synthesis reaction is summarized in FIG. 2.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-acetoxy-3,5-dichlorobenzoic acid chloride | C(C)(=O)OC1=C(C(=O)Cl)C=C(C=C1Cl)Cl | C9H5Cl3O3
reactant | phenylalanine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CC1=CC=CC=C1)=O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(2-acetoxy-3,5-dichlorobenzoyl)-L-phenylalanine | C(C)(=O)OC1=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C(C=C1Cl)Cl | C18H15Cl2NO5
